US07202363B2
N-[(1-acetylpiperidin-2-yl)methyl]-4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxamide
4-Amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)-N-(piperidin-2-ylmethyl)thieno[3,2-c]pyridine-7-carboxamide (0.090 g, 0.16 mmol) and acetic acid (0.012 g, 0.17 mmol) were treated according to General Procedure D to provide the title compound. LCMS Conditions a: 3.11 minute, 611.1 (MH+).

reactant | 4-Amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)-N-(piperidin-2-ylmethyl)thieno[3,2-c]pyridine-7-carboxamide | 0.16 mmol, 0.090 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C(=O)NCC2NCCCC2 | C31H32N6O3S
reactant | acetic acid | 0.17 mmol, 0.012 g | C(C)(=O)O | C2H4O2
product | N-[(1-acetylpiperidin-2-yl)methyl]-4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxamide | C(C)(=O)N1C(CCCC1)CNC(=O)C=1C2=C(C(=NC1)N)C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC | C33H34N6O4S
